US04725283
Preparation of 4,5-dichloro-2-nitro-N-β-aminoethylaniline
0.13 mole (30.6 g) of 2,4,5-trichloronitrobenzene is added to a solution of 78 g of ethylenediamine in 100 ml of 96° ethanol and 117 ml of water. After heating under reflux for 1 h 30 min, the reaction mixture is cooled. After dilution with iced water, the expected product precipitates. It melts as 84° C.-87° C.

reactant | 2,4,5-trichloronitrobenzene | 0.13 mole, 30.6 g | ClC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | ethylenediamine | 78 g | C(CN)N | C2H8N2
reactant | ethanol | C(C)O | C2H6O
solvent | water | 117 ml | O | H2O
product | 4,5-dichloro-2-nitro-N-β-aminoethylaniline | ClC1=CC(=C(NCCN)C=C1Cl)[N+](=O)[O-] | C8H9Cl2N3O2
